US06919352B2
To a solution of 7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridine (18.7 g, 72.4 mmol) in toluene (300 mL) at room temperature was added acetic anhydride (8.2 mL, 86.9 mmol). Boron trifluoride diethyletherate (10.1 mL, 79.6 mmol) was then added dropwise and the resulting solution was heated at reflux for 4 hours. The reaction mixture was cooled to room temperature and quenched by the dropwise addition of saturated aqueous sodium bicarbonate. The reaction was extracted with ethyl acetate, and the ethyl acetate phase washed with brine, dried (magnesium sulfate), filtered and concentrated. The residue was purified by recrystallization from ethyl acetate-hexanes to give 1-[7-(chloro)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone (14.2 g, 65%) as reddish needles. 1H NMR (CDCl3): δ 8.37 (dd, 1H), 7.49 (dd, 2H), 7.39 (dd, 1H), 7.10 (dd, 1H), 6.98 (dd, 2H), 3.84 (s, 3H), 2.13 (s, 3H); MS m/z 301 (M+1).

reactant | 7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridine | 72.4 mmol, 18.7 g | ClC1=CC=CC=2N1N=C(C2)C2=CC=C(C=C2)OC | C14H11ClN2O
reactant | acetic anhydride | 86.9 mmol, 8.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Boron trifluoride | B(F)(F)F | BF3
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[7-(chloro)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone | 14.2 g, 65% | ClC1=CC=CC=2N1N=C(C2C(C)=O)C2=CC=C(C=C2)OC | C16H13ClN2O2
